US07262185B2
2-mercaptopyrimidine (5.0 g) was dissolved in THF/DMF (150 ml), and to the solution was added triethylamine (7.4 ml) and then 4-nitrobenzyl bromide (8.7 g). The reaction solution was stirred for 1 hour at room temperature, added to water, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was washed with hexane/ethyl acetate (=8/1), to give 2-[(4-nitrobenzyl)sulfanyl]pyrimidine (8.0 g).

reactant | 2-mercaptopyrimidine | 5.0 g | SC1=NC=CC=N1 | C4H4N2S
reactant | triethylamine | 7.4 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzyl bromide | 8.7 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | water | O | H2O
solvent | THF DMF | 150 ml | C1CCOC1.CN(C)C=O
product | 2-[(4-nitrobenzyl)sulfanyl]pyrimidine | 8.0 g | [N+](=O)([O-])C1=CC=C(CSC2=NC=CC=N2)C=C1 | C11H9N3O2S
